US07384967B2
N-(2-Methanesulfonyl-ethyl)-2-(2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetamide (181 mg, 68%) was prepared from (2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetic acid (213 mg, 0.5 mmol) and 2-methanesulfonyl-ethylamine (61 mg, 0.5 mmol) following the general procedure K.

reactant | (2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetic acid | 0.5 mmol, 213 mg | COC1=C(C(=O)C2=C(C=C(C=C2)C)NC(NC=2SC=C(N2)CC(=O)O)=O)C=CC=C1 | C21H19N3O5S
reactant | 2-methanesulfonyl-ethylamine | 0.5 mmol, 61 mg | CS(=O)(=O)CCN | C3H9NO2S
product | N-(2-Methanesulfonyl-ethyl)-2-(2-{3-[2-(2-methoxy-benzoyl)-5-methyl-phenyl]-ureido}-thiazol-4-yl)-acetamide | 181 mg, 68% | CS(=O)(=O)CCNC(CC=1N=C(SC1)NC(=O)NC1=C(C=CC(=C1)C)C(C1=C(C=CC=C1)OC)=O)=O | C24H26N4O6S2
